datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([H:17])[H:18])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:9]([C:10]([C:11](=[C:12]([H:17])[H:18])[H:16])[H:15])([H:13])[H:14])[H:4],24.1835
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[H:8]>>[C:0](=[N:1][C:2]([H:6])[H:7])([H:3])[H:4].[H:5][H:8],1.58992
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])([c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[S:3])[H:19])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:20])([H:21])[H:22])[c:10]1[c:11]([H:23])[c:12]([H:24])[c:13]([H:25])[c:14]([H:26])[c:15]1[H:27])([H:16])([H:17])[H:18],55.2288
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20])[H:8])([H:6])[H:7],52.9694
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[C:14]([O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:15][C:14]([H:16])([H:17])[H:18],29.288
[C:0]([S:1][C:2](=[S:3])[H:6])([H:4])[H:5]>>[C:0](=[S:1])([H:4])[H:5].[C:2](=[S:3])[H:6],154.26408
[C:3]([H:4])([H:5])[H:6].[O:0]([H:1])[H:2]>>[H:1][C:3]([H:4])([H:5])[H:6].[O:0][H:2],52.551
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[O:13][O:14][H:15]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:6])[H:7].[H:5][O:13][O:14][H:15],64.852
[O:0]([S:1])[H:2].[O:3][O:4]>>[H:2][O:3][O:4].[O:0][S:1],79.550392
[C:0](=[C:1]1[C:2]([H:9])[C:3]([C:4]([H:11])([H:12])[H:13])([H:10])[C:5]([H:14])=[C:6]1[H:15])([H:7])[H:8]>>[C:0](=[C:1]1[C:2]([C:4]([H:11])([H:12])[H:13])([H:9])[C:3]([H:10])[C:5]([H:14])=[C:6]1[H:15])([H:7])[H:8],182.004
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([H:11])[H:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:10]([H:6])([H:11])[H:12])([H:4])[H:5],-7.355472
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16](=[O:17])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:21])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8].[C:15]([C:16]=[O:17])([H:18])([H:19])[H:20],56.9024
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:13]>>[C:0](=[C:1]([C:2](=[C:3]([H:6])[H:7])[H:5])[C:10]([C:9]#[C:8][H:13])([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:4],46.9026
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[O:3][C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[O:3][H:13])([H:5])[H:6].[C:4]([H:10])([H:11])[H:12],109.67
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][O:8],11.84072
[C:0]1([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])=[C:4]2[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]([H:17])([H:18])[C:8]12[H:19]>>[H:19].[c:0]1([H:9])[c:1]([H:10])[c:2]([H:11])[c:3]([H:12])[c:4]2[c:8]1[C:7]([H:17])([H:18])[C:6]([H:15])([H:16])[C:5]2([H:13])[H:14],95.985144
[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:11])([H:12])[H:13].[H:21]>>[C:0]([c:1]1[c:2]([H:14])[c:3]([H:15])[c:4]2[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]([H:19])[c:9]2[c:10]1[H:20])([H:12])[H:13].[H:11][H:21],12.9706
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5]>>[C:0](=[C:1]=[C:2]=[C:3]([H:7])[H:8])([H:4])[H:5].[H:6],239.119784
[O:0]([S:1])[H:2].[O:3]>>[H:2][O:3].[O:0][S:1],0.0
[C:0]([C:1](=[C:2]([C:3](=[C:4]=[C:5]([H:11])[H:12])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:0]1([H:6])([H:7])[C:1]([H:8])=[C:2]([H:9])[C:3]([H:10])=[C:4][C:5]1([H:11])[H:12],90.0815
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22]([C:23]([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:23]([C:22](=[C:21]([H:26])[H:27])[H:28])([C:24](=[C:25]([H:31])[H:32])[H:30])[H:29])[H:11],67.0695
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])=[C:8]([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10]#[C:11][H:26])[H:12],65.1867
